US08193189B2
4-[1-(4-Bromo-2-methyl-phenyl)-1-methyl-ethyl]-thiomorpholine 1,1-dioxide
A solution of 1-(4-Bromo-2-methyl-phenyl)-1-methyl-ethylamine (preparation 48, 544 mg, 2 mmol), vinyl sulfone (200 μl, 2 mmol) in EtOH (8 ml) is heated to 100° C. for 6 h and then allowed to cool to RT. EtOH is removed under HV and the residue is purified by flash chromatography (silicagel, CH2Cl2:EtOAc=1:0=>0:1) to afford the title compound as a pale pink solid, Rt=1.231 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 346 (M+1, 79Br)+.

reactant | 1-(4-Bromo-2-methyl-phenyl)-1-methyl-ethylamine | 2 mmol, 544 mg | BrC1=CC(=C(C=C1)C(C)(C)N)C | C10H14BrN
reactant | vinyl sulfone | 2 mmol, 200 μl | C(=C)S(=O)(=O)C=C | C4H6O2S
solvent | EtOH | 8 ml | CCO | C2H6O
product | 4-[1-(4-Bromo-2-methyl-phenyl)-1-methyl-ethyl]-thiomorpholine 1,1-dioxide | BrC1=CC(=C(C=C1)C(C)(C)N1CCS(CC1)(=O)=O)C | C14H20BrNO2S
